US07160878B2
B. 1-(6-Chloronaphthalen-2-ylsulfonyl)-4-[6-(hexahydro-1,4-diazepin-1-yl)pyridazin-3-ylcarbonyl]piperazine
To a solution of 1-[6-(4-t-butoxycarbonylhexahydro-1,4-diazepin-1-yl)pyridazin-3-ylcarbonyl]-4-(6-chloronaphthalen-2-ylsulfonyl)piperazine (0.320 g, 0.52 mmol) in methylene chloride (10 mL) was added trifluoroacetic acid (2 mL). The reaction mixture was stirred overnight at room temperature, and the solvent removed by evaporation. The residue was purified using a SCX column to afford the title product (0.230 g, 86%).

reactant | 1-[6-(4-t-butoxycarbonylhexahydro-1,4-diazepin-1-yl)pyridazin-3-ylcarbonyl]-4-(6-chloronaphthalen-2-ylsulfonyl)piperazine | 0.52 mmol, 0.320 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=CC=C(N=N1)C(=O)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl | C29H35ClN6O5S
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(6-Chloronaphthalen-2-ylsulfonyl)-4-[6-(hexahydro-1,4-diazepin-1-yl)pyridazin-3-ylcarbonyl]piperazine | 0.230 g, 86% | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C=1N=NC(=CC1)N1CCNCCC1 | C24H27ClN6O3S
